US09102591B2
A dried flask was charged with 2-(6-(trifluoromethyl)pyridin-3-yl)acetonitrile (1.0 g, 5.38 mmol) in DME (20 ml). The mixture was degassed and filled with N2, then t-BuOK (30 ml, 30 mmol, 1M in THF), 4-bromopyridine hydrochloride (2.1 g, 10.7 mmol) and Pd(dppf)Cl2 (39.6 mg, 0.538 mmol) was added. The mixture was stirred at 60° C. for 3 h. After cooling to room temperature, sat.aq NH4Cl (15 ml) was added and the solution was extracted with EtOAc (3×30 ml). The combined organic layers were washed with brine and dried over Na2SO4, concentrated in vacuo. The residue was purified by column chromatography on silica gel (EtOAc: Petroleum ether=4:1) to give 2-(pyridin-4-yl)-2-(6-(trifluoromethyl)pyridin-3-yl)acetonitrile (360 mg, yield: 25.7%). 11-1 NMR (CDCl3 400 MHz): δ8.75 (d, J=1.6; Hz, 1H), 8.71 (d, J=6.0; Hz, 2H), 7.90 (dd, J=8.0; Hz, 2.0; Hz, 1H), 7.77 (d, J=8.4; Hz, 1H), 7.31 (d, J=6.0; Hz, 2H), 5.26 (s, 1H).

reactant | 2-(6-(trifluoromethyl)pyridin-3-yl)acetonitrile | 5.38 mmol, 1.0 g | FC(C1=CC=C(C=N1)CC#N)(F)F | C8H5F3N2
reactant | t-BuOK | 30 mmol, 1M, 30 ml | CC(C)(C)[O-].[K+]
reactant | 4-bromopyridine hydrochloride | 10.7 mmol, 2.1 g | Cl.BrC1=CC=NC=C1
reactant | NH4Cl | 15 ml | [NH4+].[Cl-]
solvent | DME | 20 ml | COCCOC | C4H10O2
catalyst | Pd(dppf)Cl2 | 0.538 mmol, 39.6 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(pyridin-4-yl)-2-(6-(trifluoromethyl)pyridin-3-yl)acetonitrile | 360 mg, yield: 25.7% | N1=CC=C(C=C1)C(C#N)C=1C=NC(=CC1)C(F)(F)F | C13H8F3N3
